US06596726B1
4-Choroindolo[3,2-d]pyrimidine hydrochloride (240 mg, 1 mmol) and 3-bromoaniline (0.33 mL, 3 mmol) in ethanol (3 mL) are heated at reflux under a nitrogen atmosphere for 2 h. Filtration and washing of the collected solids with ethanol, followed by recrystallization from DMF gives 4-(3-bromoanilino)indolo[3,2-d]pyrimidine hydrochloride (288 mg, 77%). 1H NMR (DMSO) δ12.73 (1H, s), 11.42 (1H, s), 9.02 (1H, s), 8.41 (1H, s), 8.28 (1H, d, J=7.9 Hz), 7.95-7.92 (1H, m), 7.84-7.82 (1H, d, J=8.6 Hz), 7.74-7.69 (1H, m), 7.40-7.47 (3H, m).

reactant | 4-Choroindolo[3,2-d]pyrimidine hydrochloride | 1 mmol, 240 mg | Cl.ClC=1C2=C(N=CN1)C=1C=CC=CC1N2
reactant | 3-bromoaniline | 3 mmol, 0.33 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(3-bromoanilino)indolo[3,2-d]pyrimidine hydrochloride | 288 mg, 77% | Cl.BrC=1C=C(NC=2C3=C(N=CN2)C=2C=CC=CC2N3)C=CC1 | InChI=1S/C16H11BrN4.ClH/c17-10-4-3-5-11(8-10)20-16-15-14(18-9-19-16)12-6-1-2-7-13(12)21-15;/h1-9,21H,(H,18,19,20);1H
